US05134154
Ethyl α-(2-Methoxyphenoxy)-phenylacetate
A mixture of 130 g (1.05 m) guaiacol, 243 g (1 M) ethyl α-bromophenylacetate, 150 g of potassium carbonate and 1.5 L of acetone was refluxed for 96 hours, cooled and filtered. The solvent was removed at reduced pressure and the residue dissolved in toluene. After washing with dilute sodium hydroxide, then water, the solvent was removed and the residue distilled. The fraction boiling at 158-163°/0.4 mm was collected, weight 263 g.

reactant | guaiacol | 130 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | ethyl α-bromophenylacetate | 1 M, 243 g | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | potassium carbonate | 150 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.5 L | CC(=O)C | C3H6O
product | Ethyl α-(2-Methoxyphenoxy)-phenylacetate | COC1=C(OC(C(=O)OCC)C2=CC=CC=C2)C=CC=C1 | C17H18O4
